US04548935
A mixture of 2-{[4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxy}thioacetamide (2.19 g) and 1-bromo-4-phthalimido-2-butanone (1.48 g) in ethanol (50 ml) was heated under reflux for 4 hours and then evaporated. The residue was triturated with ether/hexane and the resulting solid collected, recrystallised from methanol and dried to give 2-{[4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxymethyl}-4-(2-phthalimidoethyl)thiazole as a hemihydrate (1.73 g), m.p. 156°-157° C. Found: C,59.71; H,5.06; N,6.31. C32H29ClN3O7S.0.5H2O: requires C,59.58; H,4.80; N,6.51%.

reactant | 2-{[4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxy}thioacetamide | 2.19 g | ClC1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OC)C)COCC(=S)N)C(=O)OCC | C20H23ClN2O5S
reactant | 1-bromo-4-phthalimido-2-butanone | 1.48 g | BrCC(CCN1C(C=2C(C1=O)=CC=CC2)=O)=O | C12H10BrNO3
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-{[4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxymethyl}-4-(2-phthalimidoethyl)thiazole | ClC1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OC)C)COCC=1SC=C(N1)CCN1C(C=2C(C1=O)=CC=CC2)=O)C(=O)OCC | C32H30ClN3O7S
